US09227970B2
A mixture of 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester (282 mg, 0.71 mmol) and lithium hydroxide hydrate (88.9 mg, 2.12 mmol) in methanol (10 ml) and water (3 ml) was stirred for 18 hours at 55° C. The solvents were evaporated under reduced pressure and the residue treated with water (5 ml) and hydrogen chloride (1 molar in water, 2.12 ml). The precipitated solid was filtered off, washed with water and dried under reduced pressure, affording 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (187 mg, 71%) as light brown solid. Mp.: 294° C. MS: m/z=372.0 (M+H+).

reactant | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.71 mmol, 282 mg | C(C)OC(=O)C=1C=NN(C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C | C18H21N7O4
reactant | lithium hydroxide hydrate | 2.12 mmol, 88.9 mg | O.[OH-].[Li+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 1-methyl-5-(2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 187 mg, 71% | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
